datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])([H:17])[H:18])[H:16])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])([H:18])[C:7]([C:9](=[C:10]([H:22])[H:23])[H:21])[C:8]1([H:19])[H:20])[H:11],105.311
[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:12],120.026408
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([O:7][O:8][H:19])[H:13])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([O:7][O:8][H:19])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],47.2792
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][O:16]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][O:15][O:16],166.147
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],-0.54392
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24],-13.3888
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6]>>[C:0]([C:1]([O:2])([H:5])[H:6])([H:3])[H:4],27.6144
[C:0]([C:1]1=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7].[H:13]>>[C:0]([C:1]1=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:13],0.037656
[C:0](=[C:1][N:2]([H:5])[H:6])([H:3])[H:4].[H:7]>>[C:0](#[C:1][N:2]([H:5])[H:6])[H:4].[H:3][H:7],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][O:17][O:16][C:15]([H:18])([H:19])[H:20],58.19944
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16],67.5716
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:10])[H:11])([H:8])[H:9].[O:17][H:18]>>[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])[H:9].[H:10][O:17][H:18],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([c:14]1[c:15]([H:28])[c:16]([H:29])[c:17]([H:30])[c:18]([H:31])[c:19]1[H:32])[H:27])([c:20]1[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]([H:36])[c:25]1[H:37])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([c:14]1[c:15]([H:28])[c:16]([H:29])[c:17]([H:30])[c:18]([H:31])[c:19]1[H:32])[H:27])([c:20]1[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]([H:36])[c:25]1[H:37])[H:26])[H:5],40.8358
[C:0]([H:1])([H:2])([H:3])[H:4].[O:5]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:5],27.518168
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],95.3952
[C:3]#[N:4].[N:0](=[O:1])[H:2]>>[H:2][C:3]#[N:4].[N:0]=[O:1],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([C:8]([C:9]([H:20])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12],309.616
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[S:13]=[C:14][S:15][H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14](=[S:13])[S:15][H:16],30.5432
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]([S:11][H:13])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:12])([H:3])([H:4])[H:5].[S:10][S:11][H:13],-17.9912
